US04012380
7-(2-Formyloxy-2-phenylacetamido)-3-acetyl-3-cephem-4-carboxylic acid.
To a cooled (5° C.), stirred slurry of 0.194 g. of benzhydryl 7-(2-formyloxy-2-phenylacetamido)-3-acetyl-3-cephem-4-carboxylate in 10 ml. of anisole was added 1 ml. of cold trifluoroacetic acid. After allowing the reaction mixture to stir with cooling for 15 minutes, 30 ml. of n-heptane was added and the resulting solution was evaporated in vacuo to a low volume. An additional 30 ml. of n-heptane was added, and the resulting solution was stirred with cooling in an ice bath for 5 minutes. The solid obtained by filtration of the n-heptane solution was dissolved in acetone, the acetone solution was filtered, and the filtrate was evaporated in vacuo to a low volume. The residue was transferred with the aid of cold ethyl acetate to a separatory funnel where the resulting ethyl acetate solution was extracted twice with cold aqueous sodium bicarbonate solution. The aqueous extracts were combined, layered with cold ethyl acetate, and acidified with cold 1N.HCl. The organic layer was separated, washed twice with brine, and dried over anhydrous sodium sulfate. Evaporation in vacuo to dryness provided 0.136 g. (99.3 percent) of the title product as a white froth which failed to crystallize from aceonte/hexane or chloroform/hexane:

reactant | benzhydryl 7-(2-formyloxy-2-phenylacetamido)-3-acetyl-3-cephem-4-carboxylate | C(=O)OC(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=CC=CC=C1 | C31H26N2O7S
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | n-heptane | CCCCCCC | C7H16
solvent | acetone | CC(=O)C | C3H6O
product | 7-(2-Formyloxy-2-phenylacetamido)-3-acetyl-3-cephem-4-carboxylic acid | 99.3 percent | C(=O)OC(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)=O)C(=O)O)C1=O)C1=CC=CC=C1 | C18H16N2O7S
